US07569578B2
(±)-3-(1-(3-(4-Ethylpyridin-2-yl)-4-(7-methyl-1H-indazol-5-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one
To the solution of (±)-3-(1-(3-(4-ethylpyridin-2-yl)-4-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (69 mg, 0.103 mmol) in tetrahydrofuran (2 mL) was added 1M tetrabutylammonium fluoride in tetrahydrofuran (0.21 mL, 0.207 mmol, 2 equiv). The mixture was stirred at 60° C. under nitrogen for 4 h. Tetrahydrofuran was removed in vacuo and the residue was partitioned between water and ethyl acetate. The layers were separated and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (10% methanol in methylene chloride) to afford the desired product (50.3 mg, 91%) as a white powder: MS (ESI) [M+H]+=537. 1H-NMR (400 MHz, CDCl3) δ 8.48-8.42 (m, 1H), 7.95-7.91 (m, 2H), 7.22-7.10 (m, 2H), 7.06-6.60 (m, 6H), 4.70-4.64 (m, 1H), 4.60-4.42 (m, 1H), 4.24-3.90 (m, 3H), 3.78-3.60 (m, 1H), 3.26-2.92 (m, 3H), 2.92-2.38 (m, 8H), 1.78-1.50 (m, 3H), 1.50-1.12 (m, 2H), 1.12-0.94 (m, 3H).

reactant | (±)-3-(1-(3-(4-ethylpyridin-2-yl)-4-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 0.103 mmol, 69 mg | C(C)C1=CC(=NC=C1)C(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C38H50N6O3Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.207 mmol, 0.21 mL, 2 equiv | O1CCCC1 | C4H8O
product | (±)-3-(1-(3-(4-Ethylpyridin-2-yl)-4-(7-methyl-1H-indazol-5-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 50.3 mg, 91% | C(C)C1=CC(=NC=C1)C(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)CC=1C=C2C=NNC2=C(C1)C | C32H36N6O2
